US03931407
3-(3-Carboxy-4-hydroxyphenyl)-2-phenylbenz[e]indole ##SPC58##
A mixture of 7.6 g. (0.02 mole) of 3-(3-carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole, 9.1 g. of 10% palladium on carbon, and 350 ml. of xylene was heated under reflux with stirring under nitrogen for 24 hours and then filtered. The filtrate was concentrated to 135 ml. and cooled. The solid which separated was collected and recrystallized from xylene to provide 3.6 g. (48%) of yellow crystals, m.p. 241.5°-242.5°.

reactant | 3-(3-carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole | 0.02 mole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2C3=C(CCC12)C=CC=C3)C3=CC=CC=C3 | C25H19NO3
catalyst | palladium on carbon | [Pd] | Pd
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(3-Carboxy-4-hydroxyphenyl)-2-phenylbenz[e]indole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2C3=C(C=CC12)C=CC=C3)C3=CC=CC=C3 | C25H17NO3
